US04000275
6-(3-Methylcyclooctanoyl)benzimidazo[2,1-b]quinazolin-12(6H)one is prepared with benzimidazo[2,1-b]quinazolin-12(6H)one and 3-methylcyclooctanoyl chloride.

reactant | benzimidazo[2,1-b]quinazolin-12(6H)one | C1=C2C(N3C(=NC2=CC=C1)NC1=C3C=CC=C1)=O | C14H9N3O
reactant | 3-methylcyclooctanoyl chloride | CC1CC(CCCCC1)C(=O)Cl | C10H17ClO
product | 6-(3-Methylcyclooctanoyl)benzimidazo[2,1-b]quinazolin-12(6H)one | CC1CC(CCCCC1)C(=O)N1C2=C(C=CC=C2)N2C1=NC1=CC=CC=C1C2=O | C24H25N3O2
